US08202865B2
Step 1: Methyl 3-methyl-4-morpholin-4-ylbenzoate
To a stirred solution of methyl 4-bromo-3-methylbenzoate (5 g, 21.8 mmol) in dry 1,4-dioxane (100 mL), were added dry Cs2CO3 (10.65 g, 32.7 mmol) and morpholine (2.3 g, 26 mmol). The mixture was degassed for 10 min. BINAP (0.67 g, 1.1 mmol) and palladium(II)acetate (0.24 g, 1.1 mmol) were added under N2 and the resulting mixture was refluxed for 15 h. The reaction mixture was filtered through a pad of celite and the filtrate was evaporated. The crude product was purified by flash chromatography, affording the title compound as a yellow solid (4.3 g, 84%). 1H NMR (CDCl3, 400 MHz) δ 7.86-7.90 (m, 2H), 7.13-7.16 (d, 1H), 3.98-4.0 (m, 4H), 3.91 (3H, s), 3.10-312 (m, 4H), 2.45 (3H, s). LC/MS (Method A): 236.0 (M+H)+. HPLC (Method B) Rt 2.24 min (Purity: 95.3%).

reactant | methyl 4-bromo-3-methylbenzoate | 21.8 mmol, 5 g | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | Cs2CO3 | 32.7 mmol, 10.65 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | morpholine | 26 mmol, 2.3 g | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II)acetate | 1.1 mmol, 0.24 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 1.1 mmol, 0.67 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | Methyl 3-methyl-4-morpholin-4-ylbenzoate | 4.3 g, 84% | CC=1C=C(C(=O)OC)C=CC1N1CCOCC1 | C13H17NO3
